US05097023
Methyl 4-O-(4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-2,3,6-tri -O-benzyl-α-D-glucopyranoside (2.543 g, 2.71 mmol) was dissolved in hot toluene (20 mL) and methanol (80 mL) was added, followed by a few drops of 1M. methanolic sodium methoxide. The mixture was stirred at room temperature during 2 h. The reaction mixture was made neutral with Amberlite IR 120 (H+) resin, filtered and concentrated under reduced pressure to afford methyl 2,3,6-tri-O-benzyl-4-O-(2,3,6-tri-O-benzyl -α-D-galactopyranosyl)-α-D-glucopyranoside (2.42 g, 100%) as an amorphous solid.

reactant | Methyl 4-O-(4-O-acetyl-2,3,6-tri-O-benzyl-α-D-galactopyranosyl)-2,3,6-tri -O-benzyl-α-D-glucopyranoside | 2.71 mmol, 2.543 g | C(C)(=O)O[C@@H]1[C@@H]([C@H]([C@H](O[C@@H]1COCC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@@H](OC)O[C@@H]1COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C57H62O12
reactant | methanol | 80 mL | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2,3,6-tri-O-benzyl-4-O-(2,3,6-tri-O-benzyl -α-D-galactopyranosyl)-α-D-glucopyranoside | 2.42 g, 100% | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O[C@@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](O)[C@H](O1)COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C55H60O11
